datasets/RMG-dataset.csv
rxn,Ea
[C:0](=[C:1]([C:2]([C:3](=[C:4]([C:5]([C:6](=[C:7]([H:17])[H:18])[C:8]([H:19])([H:20])[H:21])([H:15])[H:16])[H:14])[H:13])[H:12])[H:11])([H:9])[H:10]>>[C:0](=[C:1]([C:2]1([H:12])[C:3]([H:13])=[C:4]([H:14])[C:5]([H:15])([H:16])[C:6]([C:8]([H:19])([H:20])[H:21])[C:7]1([H:17])[H:18])[H:11])([H:9])[H:10],125.897
[C:0](=[C:1]=[C:2]([H:5])[H:6])([H:3])[H:4].[S:7]([C:8]([c:9]1[c:10]([H:17])[c:11]([H:18])[c:12]([H:19])[c:13]([H:20])[c:14]1[H:21])[H:16])[H:15]>>[C:0](=[C:1]=[C:2]([H:5])[H:6])[H:4].[H:3][C:8]([S:7][H:15])([c:9]1[c:10]([H:17])[c:11]([H:18])[c:12]([H:19])[c:13]([H:20])[c:14]1[H:21])[H:16],54.392
[C:0]([C:1](=[C:2]([c:3]1[c:4]([H:14])[c:5]([H:15])[c:6]([H:16])[c:7]([H:17])[c:8]1[H:18])[H:13])[H:12])([H:9])([H:10])[H:11].[C:19]([C:20](=[C:21]([H:25])[H:26])[H:24])([H:22])[H:23]>>[C:0]([C:1]([C:2]([c:3]1[c:4]([H:14])[c:5]([H:15])[c:6]([H:16])[c:7]([H:17])[c:8]1[H:18])([H:13])[C:19]([C:20](=[C:21]([H:25])[H:26])[H:24])([H:22])[H:23])[H:12])([H:9])([H:10])[H:11],60.7517
[C:0]([C:1](=[C:2]([H:8])[H:9])[C:3]([C:4]([H:11])([H:12])[H:13])([C:5]([H:14])([H:15])[H:16])[H:10])([H:6])[H:7]>>[C:0]([C:1](=[C:2]([H:8])[H:9])[C:3]([C:4]([H:11])([H:12])[H:13])[C:5]([H:14])([H:15])[H:16])([H:6])([H:7])[H:10],198.74
[C:0](#[C:1][C:2]([H:4])([H:5])[H:6])[H:3].[C:7](=[C:8]([C:9]([C:10](=[C:11]([H:17])[H:18])[H:16])[H:15])[H:14])([H:12])[H:13]>>[C:0](=[C:1]([C:2]([H:4])([H:5])[H:6])[C:9]([C:8](=[C:7]([H:12])[H:13])[H:14])([C:10](=[C:11]([H:17])[H:18])[H:16])[H:15])[H:3],82.1319
[C:0](#[C:1][C:2](=[C:3]([C:4](=[C:5]([H:11])[H:12])[H:10])[C:6](=[C:7]([H:14])[H:15])[H:13])[H:9])[H:8].[C:16](#[C:17][C:18]([C:19]([H:22])([H:23])[H:24])[C:20]([H:25])([H:26])[H:27])[H:21]>>[C:0](#[C:1][C:2]([C:3]([C:4](=[C:5]([H:11])[H:12])[H:10])[C:6](=[C:7]([H:14])[H:15])[H:13])([H:9])[C:18]([C:17]#[C:16][H:21])([C:19]([H:22])([H:23])[H:24])[C:20]([H:25])([H:26])[H:27])[H:8],19.4138
[C:0]([S:1][C:2]([H:6])([H:7])[H:8])([H:3])([H:4])[H:5].[H:9]>>[C:0]([H:3])([H:4])[H:5].[S:1]([C:2]([H:6])([H:7])[H:8])[H:9],14.2256
[C:0](=[C:1]([H:4])[H:5])([H:2])[H:3].[C:6]([C:7]([C:8]([H:13])([H:14])[H:15])[S:9][H:16])([H:10])([H:11])[H:12]>>[C:0](=[C:1]([H:4])[H:5])[H:3].[H:2][C:7]([C:6]([H:10])([H:11])[H:12])([C:8]([H:13])([H:14])[H:15])[S:9][H:16],72.2995
[C:0](=[C:1]([C:2]([C:3]([H:14])([H:15])[H:16])=[C:4]([C:5]([H:17])([H:18])[H:19])[C:6]([C:7]([C:8]([C:9]([H:24])([H:25])[H:26])[C:10]([H:27])([H:28])[H:29])([H:22])[H:23])([H:20])[H:21])[H:13])([H:11])[H:12]>>[C:0](=[C:1]([C:2]1([C:3]([H:14])([H:15])[H:16])[C:4]([C:5]([H:17])([H:18])[H:19])[C:6]([H:20])([H:21])[C:7]([H:22])([H:23])[C:8]1([C:9]([H:24])([H:25])[H:26])[C:10]([H:27])([H:28])[H:29])[H:13])([H:11])[H:12],82.7595
[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])[S:4][H:9])[H:5].[C:10](=[C:11]([C:12]([H:16])([H:17])[H:18])[H:15])([H:13])[H:14]>>[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])([S:4][H:9])[H:16])[H:5].[C:10](=[C:11]([C:12]([H:17])[H:18])[H:15])([H:13])[H:14],50.6264
[C:0]([C:1](=[S:2])[H:6])([H:3])([H:4])[H:5].[C:7](=[C:8]=[C:9]([H:11])[H:12])[H:10]>>[C:0]([C:1]=[S:2])([H:3])([H:4])[H:5].[H:6][C:7](=[C:8]=[C:9]([H:11])[H:12])[H:10],100.416
[C:0]([H:1])([H:2])[H:3].[N:4][N:5]([H:6])[H:7]>>[C:0]([H:1])([H:2])([H:3])[H:6].[N:4]=[N:5][H:7],0.54392
[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:14])[H:15])[H:13])=[C:5]([C:6](=[C:7]([H:17])[H:18])[H:16])[C:8](=[C:9]([H:20])[H:21])[H:19])[H:12])([H:10])[H:11].[C:22](=[C:23]([H:25])[H:26])[H:24]>>[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:14])[H:15])[H:13])([C:5]([C:6](=[C:7]([H:17])[H:18])[H:16])[C:8](=[C:9]([H:20])[H:21])[H:19])[C:22](=[C:23]([H:25])[H:26])[H:24])[H:12])([H:10])[H:11],-0.33472
[C:0](#[C:1][C:2]([C:3]([H:8])([H:9])[H:10])=[C:4]([C:5]([H:11])([H:12])[H:13])[C:6]([H:14])([H:15])[H:16])[H:7].[H:17]>>[C:0](#[C:1][C:2]([C:3]([H:8])([H:9])[H:10])([C:4]([C:5]([H:11])([H:12])[H:13])[C:6]([H:14])([H:15])[H:16])[H:17])[H:7],11.3805
[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])([C:4]([H:10])([H:11])[H:12])[H:6])[H:5].[C:13](=[C:14]([C:15]([C:16]([H:21])([H:22])[H:23])[S:17][H:24])[H:20])([H:18])[H:19]>>[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])[C:4]([H:10])([H:11])[H:12])[H:5].[H:6][C:15]([C:14](=[C:13]([H:18])[H:19])[H:20])([C:16]([H:21])([H:22])[H:23])[S:17][H:24],28.8696
[C:0](=[C:1]([C:2]([C:3]([C:4]([H:12])([H:13])[H:14])([H:10])[H:11])([H:8])[H:9])[H:7])([H:5])[H:6].[O:15][O:16]>>[C:0](=[C:1]([C:2]([C:3]([C:4]([H:13])[H:14])([H:10])[H:11])([H:8])[H:9])[H:7])([H:5])[H:6].[H:12][O:15][O:16],218.78136
[C:0]([C:1]([C:2]([O:3][O:4])([H:10])[H:11])([H:8])[H:9])([H:5])([H:6])[H:7]>>[C:0]([C:1](=[C:2]([H:10])[H:11])[H:9])([H:5])([H:6])[H:7].[O:3][O:4][H:8],123.01
[C:0](=[C:1]([C:2](=[C:3]([C:4]([H:12])([H:13])[H:14])[C:5]([C:6]([C:7]([H:18])([H:19])[H:20])[H:17])([H:15])[H:16])[H:11])[H:10])([H:8])[H:9]>>[C:0](=[C:1]([C:2]1([H:11])[C:3]([C:4]([H:12])([H:13])[H:14])[C:5]([H:15])([H:16])[C:6]1([C:7]([H:18])([H:19])[H:20])[H:17])[H:10])([H:8])[H:9],137.946
